US04472433
2-Oxo-3-methylthio-4-phenoxy-7-chloroindoline (6 g) was added to a mixture of Raney nickel (15 ml) and dioxane (80 ml), and the mixture was stirred at 70° C. for 2 hours. The reaction mixture was allowed to stand at room temperature, and the supernatant was separated by decantation. To the residue was added dioxane (50 ml), and the supernatant was separated again. The dioxane solution was combined and filtered. The filtrate was evaporated in vacuo, and the residue was washed with diethyl ether and dried to give 2-oxo-4-phenoxy-7-chloroindoline (4.3 g). mp. 200°-202° C.

reactant | 2-Oxo-3-methylthio-4-phenoxy-7-chloroindoline | 6 g | O=C1NC2=C(C=CC(=C2C1SC)OC1=CC=CC=C1)Cl | C15H12ClNO2S
catalyst | Raney nickel | 15 ml | [Ni] | Ni
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 2-oxo-4-phenoxy-7-chloroindoline | 4.3 g | O=C1NC2=C(C=CC(=C2C1)OC1=CC=CC=C1)Cl | C14H10ClNO2
